US07741497B2
In a flask made of glass having an inner volume of 10 ml and equipped with a stirring device, a thermometer and a reflux condenser were charged 0.38 g (2.0 mmol) of 4-acetyl-4-methoxycarbonyltetrahydropyran with a purity of 99% and synthesized in the same manner as in Reference example 1 and 1.70 g (10 mmol) of 47% hydrobromic acid, and the mixture was reacted at 120° C. for 1 hour with stirring. After completion of the reaction, when the reaction mixture was analyzed by gas chromatography (Internal standard method), 0.17 g (Reaction yield: 65%) of 4-acetyltetrahydropyran was found to be formed.

reactant | 4-acetyl-4-methoxycarbonyltetrahydropyran | 2.0 mmol, 0.38 g | C(C)(=O)C1(CCOCC1)C(=O)OC | C9H14O4
reactant | hydrobromic acid | 10 mmol, 1.70 g | Br | BrH
product | 4-acetyltetrahydropyran | 0.17 g, yield: 65% | C(C)(=O)C1CCOCC1 | C7H12O2
